US07737138B2
In this step, an N,N-diethyl-1,4-diamino-benzene, 15, is oxidized in the presence of a thiosulfate to give a thiosulfuric acid S-(2-amino-5-diethylamino-phenyl)ester, 16, as illustrated in the following scheme:

reactant | N,N-diethyl-1,4-diamino-benzene | C(C)N(C1=CC=C(C=C1)N)CC | C10H16N2
reactant | thiosulfate | S(=S)(=O)([O-])[O-]
product | thiosulfuric acid S-(2-amino-5-diethylamino-phenyl)ester | NC1=C(C=C(C=C1)N(CC)CC)SS(O)(=O)=O | C10H16N2O3S2
